US08877782B2
N-(3-Benzyloxy-cyclobutyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 191, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (300 mg, 0.97 mmol) was converted, using rac 3-benzyloxy-cyclobutylamine instead of 2-aminoethyl isopropylether, to the title compound (350 mg, 43%) which was obtained as a white solid. MS: m/e=470.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.97 mmol, 300 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | rac 3-benzyloxy-cyclobutylamine | C(C1=CC=CC=C1)OC1CC(C1)N | C11H15NO
product | N-(3-Benzyloxy-cyclobutyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 350 mg, 43% | C(C1=CC=CC=C1)OC1CC(C1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C28H27N3O4
